US07893056B2
A mechanically stirred solution of urea (60.06 g, 1 mol) and dimethyl fluoromalonate (150.11 g, 1 mol) in methanol (1 L) was treated with 25 wt % NaOMe in methanol (˜4.6 M, 435 mL, 2 mol). The mixture was refluxed for 3 h and then allowed to cool to room temperature. The mixture was filtered, the wet cake was dissolved in warm water (˜1.2 L), and the resulting aqueous solution was acidified with concentrated aqueous HCl (˜160 mL) to pH=2 while stirring over 1 h. The mixture was allowed to cool to room temperature, and the product was filtered and washed thoroughly with water, then dried under vacuum to give 5-fluoro-6-hydroxy-2,4(1H,3H)-pyrimidinedione (80 g, 55%) as a white solid. LCMS: (M+H)+: 147.0.

reactant | urea | 1 mol, 60.06 g | NC(=O)N | CH4N2O
reactant | dimethyl fluoromalonate | 1 mol, 150.11 g | FC(C(=O)OC)C(=O)OC | C5H7FO4
reactant | NaOMe | C[O-].[Na+]
solvent | methanol | 1 L | CO | CH4O
solvent | methanol | 2 mol, ˜4.6 M, 435 mL | CO | CH4O
product | 5-fluoro-6-hydroxy-2,4(1H,3H)-pyrimidinedione | 80 g, 55% | FC=1C(NC(NC1O)=O)=O | C4H3FN2O3
